US06506901B2
Step A: 2,5-Difluoro-N-isopropyl-benzamide
The title compound was prepared from 2,5-difluorobenzoic acid (10 g, 63.2 mmol), carbonyldiimidazole (9.57 g, 61 mmol) and isopropyl amine (5.15 mL, 60.5 mmol) according to the procedure used for example 84 (Step A) to give near quantitative yield of the title compound.

reactant | 2,5-difluorobenzoic acid | 63.2 mmol, 10 g | FC1=C(C(=O)O)C=C(C=C1)F | C7H4F2O2
reactant | carbonyldiimidazole | 61 mmol, 9.57 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | isopropyl amine | 60.5 mmol, 5.15 mL | C(C)(C)N | C3H9N
product | 2,5-Difluoro-N-isopropyl-benzamide | quantitative yield | FC1=C(C(=O)NC(C)C)C=C(C=C1)F | C10H11F2NO
